US05409956
Preparation of 5-formyl-2[(4-chlorophenyl)sulfonylaminomethyl]indan:
5.33 g (40.0 mmol) of anhydrous aluminum chloride was suspended in 20 ml of methylenechloride and added with 1.61 g (5.00 mmol) of 2-[(4-chlorophenyl)sulfonylaminomethyl]indan, followed by cooling at -20° C. 10 ml of methylene chloride containing as dissolved 0.68 ml (7.5 mmol) of dichloromethylmethylether was slowly added dropwise thereto, followed by stirring for 1 hour at the same temperature. The reaction solution was poured into ice-water and stirred for 1 hour. Thereafter, the organic phase was collected, washed, dried, and the solvent was removed. The residue was purified by silica gel column chromatography (chloroform), followed by recrystallizing from a solvent mixture of ethylacetate and hexane to obtain 375 mg of colorless crystals. Yield: 22%

reactant | aluminum chloride | 40.0 mmol, 5.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-[(4-chlorophenyl)sulfonylaminomethyl]indan | 5.00 mmol, 1.61 g | ClC1=CC=C(C=C1)S(=O)(=O)NCC1CC2=CC=CC=C2C1 | C16H16ClNO2S
reactant | dichloromethylmethylether | 7.5 mmol, 0.68 ml | ClC(Cl)OC | C2H4Cl2O
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-formyl-2[(4-chlorophenyl)sulfonylaminomethyl]indan | 375 mg, Yield: 22% | C(=O)C=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=C(C=C1)Cl | C17H16ClNO3S
